US08802713B2
0.29 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methyl-3-(3,3,3-trifluoropropoxy)pyrazole was dissolved in 10 mL of chloroform, and 0.17 g of m-chloroperbenzoic acid (purity: 75%) was slowly added under cooling with ice. After stirring for 30 minutes under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous sodium hydrogen carbonate solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (ethyl acetate:hexane=1:2) to obtain 0.30 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-5-methyl-3-(3,3,3-trifluoropropoxy)pyrazole.

reactant | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methyl-3-(3,3,3-trifluoropropoxy)pyrazole | 0.29 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C)OCCC(F)(F)F | C16H15F7N2OS
reactant | m-chloroperbenzoic acid | 0.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-5-methyl-3-(3,3,3-trifluoropropoxy)pyrazole | 0.30 g | FC1=C(C=C(C(=C1)C)S(=O)CC(F)(F)F)N1N=C(C=C1C)OCCC(F)(F)F | C16H15F7N2O2S
